US08357721B2
e) 1-{4-[2-(Cyclopropylmethoxy)ethyl]benzyl}cyclobutanecarbonitrile
To a solution under nitrogen of 0.169 ml (1.2 mmol) of diisopropylamine in 2.5 ml of THF, maintained at −30° C., is added 0.75 ml (1.2 mmol) of n-butyllithium (1.6 M solution in hexane) over 10 minutes. After stirring for 15 minutes at −30° C., 0.172 ml (1.57 mmol) of 1,3-dimethyl-2-imidazolidinone is added, at −60° C., over 15 minutes. Next, 88.43 mg (1.09 mmol) of cyclobutanecarbonitrile dissolved in 0.75 ml of THF are added over 10 minutes, at −70° C. The orange solution obtained is stirred for one hour at −70° C., after which 245 mg (1.09 mmol) of the compound prepared in Example 1d dissolved in 0.75 ml of THF are added over 10 minutes. After stirring for 2 hours at −70° C., the orange reaction medium is poured into 15 ml of water, acidified with 1N HCl and extracted with ethyl ether. The organic phase is washed with water, dried over Na2SO4 and concentrated under vacuum to give a yellow oil. After purification by flash chromatography on silica gel, in dichloromethane, 141 mg of a pale yellow oil are obtained.

reactant | diisopropylamine | 1.2 mmol, 0.169 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.2 mmol, 1.6 M, 0.75 ml | C(CCC)[Li]
reactant | 1,3-dimethyl-2-imidazolidinone | 1.57 mmol, 0.172 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | cyclobutanecarbonitrile | 1.09 mmol, 88.43 mg | C1(CCC1)C#N | C5H7N
reactant | HCl | 1N | Cl | ClH
reactant | THF | 2.5 ml | C1CCOC1 | C4H8O
reactant | THF | 0.75 ml | C1CCOC1 | C4H8O
reactant | THF | 0.75 ml | C1CCOC1 | C4H8O
solvent | water | 15 ml | O | H2O
product | 1-{4-[2-(Cyclopropylmethoxy)ethyl]benzyl}cyclobutanecarbonitrile | 141 mg, Yield: 48.0% | C1(CC1)COCCC1=CC=C(CC2(CCC2)C#N)C=C1 | C18H23NO
